US05849755
A reduction was carried out analogously to Example 15e using 18.8 g (50 mmol) of 3-(5-fluoro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanol. After chromatography over a silica gel column using methylene chloride/ethyl acetate 95:5, the 3-(5-fluoro-2-methoxybenzamido)-2,2-dimethyl-7-methoxychroman was obtained as an oil.

reactant | 3-(5-fluoro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanol | 50 mmol, 18.8 g | FC=1C=CC(=C(C(=O)NC2C(OC3=CC(=CC=C3C2O)OC)(C)C)C1)OC | C20H22FNO5
solvent | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
product | 3-(5-fluoro-2-methoxybenzamido)-2,2-dimethyl-7-methoxychroman | FC=1C=CC(=C(C(=O)NC2C(OC3=CC(=CC=C3C2)OC)(C)C)C1)OC | C20H22FNO4
